US08349880B2
Step A (5): Iodomethane (0.890 mL, 14.3 mmol) was added to a solution of 1-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)thiourea (3.85 g, 13.6 mmol) in absolute ethanol (100 mL). The resulting mixture was heated at 70° C. for 3 h. After cooling to rt, the reaction was concentrated in vacuo. The residual volatiles were removed in vacuo to afford methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (6.32 g, 109% yield) as a white solid. LC-MS (M+H)+ 297.1. 1H NMR (500 MHz, methanol-d4) δ ppm 7.86 (d, J=1.22 Hz, 1 H) 7.55 (d, J=8.24 Hz, 1 H) 7.40 (d, J=1.22 Hz, 1 H) 7.28 (d, J=2.14 Hz, 1 H) 7.08 (dd, J=8.39, 2.29 Hz, 1 H) 3.94 (s, 3 H) 2.76 (s, 3 H).

reactant | Iodomethane | 14.3 mmol, 0.890 mL | IC | CH3I
reactant | 1-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)thiourea | 13.6 mmol, 3.85 g | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=S)N)OC | C11H11ClN4OS
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | 6.32 g, 109% yield | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC | InChI=1S/C12H13ClN4OS.HI/c1-18-10-5-8(16-12(14)19-2)3-4-9(10)17-6-11(13)15-7-17;/h3-7H,1-2H3,(H2,14,16);1H
